US07211672B2
(±)-Cis-3-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yl]-acrylic acid was made from (±)-cis-N-[6-bromo-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-chloro-phenyl)-propionamide. To a solution of (±)-cis-N-[6-bromo-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-chloro-phenyl)-propionamide (250 mg, 0.47 mmol), TEA (0.2 ml, 1.4 mmol), palladium acetate (11 mg, 0.047 mmol), 1,3-Bis(diphenylphosphino)propane (39 mg, 0.094 mmol), in 10 ml DMF was added 0.13 ml methyl acrylate (1.41 mmol). The resulting reaction mixture was heated to 80° C. overnight. The mixture was filtered through celite and the filtrate was concentrated under vacuum. The residue was purified by silica gel chromatography, eluting with ethyl acetate-hexane (2:3) to give (±)-cis-3-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yl]-acrylic acid methyl ester (110 mg, 44%).

reactant | (±)-Cis-3-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yl]-acrylic acid | ClC1=CC=C(C=C1)N([C@@H]1C[C@@H](N(C2=CC=C(C=C12)C=CC(=O)O)C(C1=CC=C(C=C1)F)=O)C)C(CC)=O | C29H26ClFN2O4
reactant | (±)-cis-N-[6-bromo-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-chloro-phenyl)-propionamide | BrC=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C1=CC=C(C=C1)F)=O)C)N(C(CC)=O)C1=CC=C(C=C1)Cl | C26H23BrClFN2O2
reactant | (±)-cis-N-[6-bromo-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-(4-chloro-phenyl)-propionamide | 0.47 mmol, 250 mg | BrC=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C1=CC=C(C=C1)F)=O)C)N(C(CC)=O)C1=CC=C(C=C1)Cl | C26H23BrClFN2O2
reactant | 1,3-Bis(diphenylphosphino)propane | 0.094 mmol, 39 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | methyl acrylate | 1.41 mmol, 0.13 ml | C(C=C)(=O)OC | C4H6O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.047 mmol, 11 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (±)-cis-3-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yl]-acrylic acid methyl ester | 110 mg, 44% | COC(C=CC=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C1=CC=C(C=C1)F)=O)C)N(C(CC)=O)C1=CC=C(C=C1)Cl)=O | C30H28ClFN2O4
